data/pmechdb/original/mc_train_fold0/raw/train.txt
C[OH+:11][CH:10]1CC2C3CC4=C(C2(CCN3CCC5=CC=CC=C5)C=C1O)C(=C(C=C4)OC)O>>C[OH:11].COC1=C(C2=C(CC3C4C2(CCN3CCC5=CC=CC=C5)C=C([CH+:10]C4)O)C=C1)O 10,11=11
C[Sn](C)(C)C1=C(C=CC=C1)C[O-:10].[AlH3:20]>>C[Sn](C)(C)C1=C(C=CC=C1)C[O:10][AlH3-:20] 10=20,
CC[Si](CC)(CC)[O:12][C:11]12CCC[CH:10]1CC(C3[C+:20]2CC4C3CCC4)OC.CO[Sn-](Cl)(Cl)(Cl)Cl>>CC[Si](CC)(CC)[O+:12]=[C:11]1CCC[CH:10]2[C:20]13CC4CCCC4C3C(C2)OC.CO[Sn-](Cl)(Cl)(Cl)Cl 10,11=10,20;12=11
[H:20][I:21].CC(=O)CCC1C2(CCCC(C2CCC1(C)[OH:10])(C)C)C>>[H:20][OH+:10]C1(CCC2C(CCCC2(C1CCC(=O)C)C)(C)C)C.[I-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1C2=CC=CC=C2)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C2=CC=CC=C2)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC1=CC2[CH+:20][C:11]([CH2:10]C(C2(CCC1)C)O[Sn-](Cl)(Cl)(Cl)Cl)(C)C.Cl>>CC1=CC2[CH:20]([CH2:10]C(C2(CCC1)C)O[Sn-](Cl)(Cl)(Cl)Cl)[C+:11](C)C.Cl 10,11=10,20
[H:20][O:21]C(=O)C(CO)C(CCCCC1=CC=CC=C1)OC2=CC=C(C=C2)OC.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COC1=CC=C(C=C1)OC(CCCCC2=CC=CC=C2)C(CO)C(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].[Li-]1[N+](=CC(C([O:10]1)CCCCCCC)(C)[Si](CC)(CC)CC)C(C)(C)C>>[H:20][O+:10]1[Li-][N+](=CC(C1CCCCCCC)(C)[Si](CC)(CC)CC)C(C)(C)C.[OH2:21] 10=20;20,21=21
C[S:20][Br:21].C(=O)[O-:10]>>C[S:20][O:10]C=O.[Br-:21] 10=20;20,21=21
C1[CH:20]([OH+:21]1)CO.C1C(O1)C[OH:10]>>C1C(O1)C[OH+:10][CH:20](CO)C[OH:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1=CC=C(C=C1)C([NH+]2CCCCC2)[OH:10].CC(C)(C)CC(=O)CC#N>>[H:20][OH+:10]C(C1=CC=C(C=C1)C)[NH+]2CCCCC2.CC(=O)[O-:21].CC(C)(C)CC(=O)CC#N 10=20;20,21=21
C[CH+:20]CBr.[OH2:10]>>C[CH:20](CBr)[OH2+:10] 10=20,
CCCCC[P+:20](CC)(CCC)SC1=NC2=C(S1)C(=CC=C2C)CC.CCC1=C(C=CC(=C1)C)C(C)[OH:10].CCC1=C2C(=C(C=C1)C)N=C(S2)[S-]>>CCCCC[P:20](CC)(CCC)([OH+:10]C(C)C1=C(C=C(C=C1)C)CC)SC2=NC3=C(S2)C(=CC=C3C)CC.CCC1=C2C(=C(C=C1)C)N=C(S2)[S-] 10=20,
C[Si:20](C)(C)C1=NC=CS1.[F-:10].CCCC[N+](CCCC)(CCCC)CCCC.CC1(N(C(CO1)C=O)C(=O)OC(C)(C)C)C>>C[Si-:20](C)(C)(C1=NC=CS1)[F:10].CCCC[N+](CCCC)(CCCC)CCCC.CC1(N(C(CO1)C=O)C(=O)OC(C)(C)C)C 10=20,
[H:20][S+:21](CC)CC=C[O-].[OH2:10]>>[H:20][OH2+:10].CC[S:21]CC=C[O-] 10=20;20,21=21
[H:20][O:21]CC.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC[O-:21] 10=20;20,21=21
C1C[CH:20]([O:21]C1)[CH2:10][Na:11]>>[CH2:10]=[CH:20]CCC[O-:21].[Na+:11] 10,11=10,20;20,21=21
[H:10][BH3-:11].C=C[CH:20]=[O:21]>>[H:10][CH:20](C=C)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CCN[C:20](C)([NH3+:21])[OH:10]>>CCN[C:20](=[OH+:10])C.[NH3:21] 10=20;20,21=21
C([CH2:20][Br:21])[O-:10]>>C1[CH2:20][O:10]1.[Br-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20](C)CCO.[Cl-:10]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C[CH:20](CCO)[Cl:10] 10=20;20,21=21
[Li:20][NH+](C(C)C)C(C)C.CCC(=O)N(C)C(C)C(C1=CC=CC=C1)[O-:10]>>[Li-:20]([NH+](C(C)C)C(C)C)[O:10]C(C1=CC=CC=C1)C(C)N(C)C(=O)CC 10=20,
[CH2+:20]C1=CC=CC=C1.[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)CBr>>C1=CC=C(C=C1)[CH2:20][CH:10]2C=C[C+:13]([CH:12]=[CH:11]2)CBr 10,11=10,20;12,13=11,12
[CH2:10]=[C:11](CC[CH:20]=[O:21])[O-:12]>>C1C[C:11](=[O:12])[CH2:10][CH:20]1[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C#N)C1=CC=CC=C1.CC(C)(C)[O-:10].CCOC(=O)C=C.COC(=O)C=C>>[H:20][O:10]C(C)(C)C.C1=CC=C(C=C1)[CH-:21]C#N.CCOC(=O)C=C.COC(=O)C=C 10=20;20,21=21
CCCOC(=O)C[N:21]=[N+:20]=[N-:10].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C[N-:21][N+:20]#[N:10].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
CCCCO[C:20](N1CCN(CC1)C2=CN=C(C=C2)NC3=NC4=C(C=N3)C(=C(C(=O)N4C5CCCC5)C(=O)C)C)([N+:21]6=CC=C(C=C6)N(C)C)[O-:10].CN(C)C1=CC=[NH+]C=C1.[Cl-]>>CCCCO[C:20](=[O:10])N1CCN(CC1)C2=CN=C(C=C2)NC3=NC4=C(C=N3)C(=C(C(=O)N4C5CCCC5)C(=O)C)C.CN(C)C1=CC=[N:21]C=C1.CN(C)C1=CC=[NH+]C=C1.[Cl-] 10=20;20,21=21
C[C:20](=[O:21])CCC[C:11](=[CH2:10])[O-:12]>>C[C:20]1(CCC[C:11](=[O:12])[CH2:10]1)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C(C=C[C+:22]1OC)C)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].CC1=C[C:21](=[C:22](C=C1)OC)N=NC2=CC=CC=C2 10=20;20,21=21,22
[H:20][C:21]1(C=C(O[CH+:22]1)C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1S(=O)(=O)O)C(F)(F)F 10=20;20,21=21,22
[H:20][O+:21]=C1CCC(=O)C1(C)C[CH:10]=[C:11](CC)[OH:12].CC(=O)[O-]>>[H:20][CH:10](CC1(C(=O)CCC1=[O:21])C)[C:11](=[OH+:12])CC.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
CC(=O)[O-:10].CC(C)(C)[Si:20](C)(C)C>>CC(=O)[O:10][Si-:20](C)(C)(C)C(C)(C)C 10=20,
CO[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1.[Br:20][Br:21]>>CO[C+:11]1C=CC2=C([CH:10]1[Br:20])C=CC=C2.[Br-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].C[CH:10]=[C:11](N)[OH:12]>>[H:20][CH:10](C)[C:11](=[OH+:12])N.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CS(=O)[O-:10]>>[H:20][O:10]S(=O)C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].CN(C)C(=O)CCC[O-:10]>>[H:20][O:10]CCCC(=O)N(C)C.[OH2:21] 10=20;20,21=21
